US07915267B2
N-[(4′-{[(1E)-3-methylbut-1-en-1-yl]sulfonyl}biphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide
To a suspension of N-([4′-[(2-hydroxy-3-methylbutyl)sulfonyl]biphenyl-3-yl]methyl)-4-oxo-3,4-dihydroquinazoline-2-carboxamide obtained in Reference Example 105 (0.300 g, 0.593 mmol) and triethylamine (0.579 mL, 4.15 mmol) in THF (6 mL) was added dropwise methanesulfonyl chloride (0.083 mL, 1.07 mmol) at 0° C., and the reaction mixture was stirred at room temperature for 12 hr. The reaction mixture was diluted with ethyl acetate, washed with 0.1N hydrochloric acid and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was crystallized from ethyl acetate-diethyl ether to give the title compound as a pale-yellow powder (0.220 g, 76%).

reactant | N-([4′-[(2-hydroxy-3-methylbutyl)sulfonyl]biphenyl-3-yl]methyl)-4-oxo-3,4-dihydroquinazoline-2-carboxamide | OC(CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O)C(C)C | C27H27N3O5S
reactant | triethylamine | 4.15 mmol, 0.579 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.07 mmol, 0.083 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(4′-{[(1E)-3-methylbut-1-en-1-yl]sulfonyl}biphenyl-3-yl)methyl]-4-oxo-3,4-dihydroquinazoline-2-carboxamide | 0.220 g, 76% | CC(/C=C/S(=O)(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)C1=NC2=CC=CC=C2C(N1)=O)C | C27H25N3O4S
